US09422281B2
Pyridine (0.150 mL, 1.86 mmol) was added to a solution of (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethanone (0.500 g, 1.86 mmol) in dichloromethane (6.6 mL). Triphosgene (0.197 g, 0.663 mmol) was then added in portions over ten minutes, and the reaction mixture stirred for 2 h at room temperature. The reaction was diluted with dichloromethane and washed with 1 N aqueous HCl solution. The organic phase was separated and washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and concentrated in a Genevac to afford (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride, which was dissolved in 1,2-dichloroethane (9.0 mL) to afford a 0.2 M solution.

reactant | Pyridine | 1.86 mmol, 0.150 mL | N1=CC=CC=C1 | C5H5N
reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethanone | 1.86 mmol, 0.500 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | Triphosgene | 0.663 mmol, 0.197 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 6.6 mL | ClCCl | CH2Cl2
product | (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)Cl)C | C12H12BrClN2O2
